US07465730B2
Utilizing the general procedure outlined in Example 48, 1,1,2,2-tetraacetylethane (200 mg, 1.0 mol), 4-ethoxy-2-fluoro-phenyl amine (155 mg, 1.0 mmol) and hydrazine (50 μL) reacted to give 6-(4-ethoxy-2-fluoro-phenyl)-1,4,5,7-tetramethyl-6H-pyrrolo[3,4-d]pyridazine as yellow solid: 1H NMR (CDCl3, 500 MHz) δ 7.13 (t, 1H), 6.88 (m, 2H), 4.16 (q, 2H), 2.82 (s, 6H), 2.46 (s, 6H), 1.53 (t, 3H); MS (ESI) 314 (M+H)+.

reactant | 1,1,2,2-tetraacetylethane | 1.0 mol, 200 mg | C(C)(=O)C(C(C(C)=O)C(C)=O)C(C)=O | C10H14O4
reactant | 4-ethoxy-2-fluoro-phenyl amine | 1.0 mmol, 155 mg | C(C)OC1=CC(=C(C=C1)N)F | C8H10FNO
reactant | hydrazine | 50 μL | NN | H4N2
product | 6-(4-ethoxy-2-fluoro-phenyl)-1,4,5,7-tetramethyl-6H-pyrrolo[3,4-d]pyridazine | C(C)OC1=CC(=C(C=C1)N1C(=C2C(=NN=C(C2=C1C)C)C)C)F | C18H20FN3O
